US05677302
To a suspension of 500 mg of 3-bromo-1,2,4-thiadiazolo [4,5-a]benzimidazole in 50 mL methanol was added 790 μL of phenethyl mercaptan. The solid rapidly dissolves. After completion of the reaction, the solvent was evaporated and the residue purified by chromatography to give 296 mg of 2-mercapto-1-benzimidazolecarbonitrile:=H NMR (DMSO-d6) δ12.85 (br s, 1H, SH), 7.5-7.2 (m, 4H, 4×ArH) ppm; IR (KBr) ν2259, 1509, 1459, 1303, 1189, 752 cm-1 ; MS m/z 175 (M+), 150 (M+ -CN).

reactant | 3-bromo-1,2,4-thiadiazolo [4,5-a]benzimidazole | 500 mg | BrC1=NSC2=NC3=C(N21)C=CC=C3 | C8H4BrN3S
reactant | phenethyl mercaptan | 790 μL | C(CC1=CC=CC=C1)S | C8H10S
solvent | methanol | 50 mL | CO | CH4O
product | 2-mercapto-1-benzimidazolecarbonitrile | 296 mg | SC1=NC2=C(N1C#N)C=CC=C2 | C8H5N3S
